US04223137
20 ml of pyridine was added to 1 g of 8-hydroxy-5-(α-isopropylaminobutyryl)carbostyril, and 2 ml of isobutyryl chloride was added dropwise to the mixture while cooling with ice-water and stirring followed by stirring for 3 hours and for 2 hours at a temperature of 35°-40° C. After addition of about 200 ml of diethyl ether, the precipitate formed was stirred in a small amount of cold water and then washed successively with acetone and diethyl ehter. The resulting crystalline product was then recrystallized from acetone to obtain 0.6 g of 2,8-bis(isobutyryloxy)-5-(α-isopropylaminobutyryl)quinoline hydrochloride having a melting point of 214°-215° C. (with coloration and decomposition).

reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | 8-hydroxy-5-(α-isopropylaminobutyryl)carbostyril | 1 g | OC=1C=CC(=C2C=CC(NC12)=O)C(C(CC)NC(C)C)=O | C16H20N2O3
reactant | isobutyryl chloride | 2 ml | C(C(C)C)(=O)Cl | C4H7ClO
reactant | diethyl ether | about 200 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 2,8-bis(isobutyryloxy)-5-(α-isopropylaminobutyryl)quinoline hydrochloride | 0.6 g | Cl.C(C(C)C)(=O)OC1=NC2=C(C=CC(=C2C=C1)C(C(CC)NC(C)C)=O)OC(C(C)C)=O | InChI=1S/C24H32N2O5.ClH/c1-8-18(25-15(6)7)22(27)17-9-11-19(30-23(28)13(2)3)21-16(17)10-12-20(26-21)31-24(29)14(4)5;/h9-15,18,25H,8H2,1-7H3;1H
